US07884207B2
A mixture of 1-{{(3-aminoquinolin-1-yl)amino]methyl}cyclopentanol (2.00 g, 7.8 mmol, Example 3 Parts A through D), triethyl orthoformate (1.36 mL, 8.2 mmol), pyridine hydrochloride (0.2 g), and toluene (20 mL) was heated at reflux for 3.5 hours. The reaction mixture was allowed to cool to ambient temperature. A solid was isolated by filtration and dried. The solid was triturated with a minimum amount of saturated aqueous sodium bicarbonate for 1 hour. The solid was filtered and then dried to provide 1.85 g of 1-[(1H-imidazo[4,5-c]quinolin-1-yl)methyl]cyclopentanol as a white solid.

reactant | 1-{{(3-aminoquinolin-1-yl)amino]methyl}cyclopentanol | NC=1CN(C2=CC=CC=C2C1)NCC1(CCCC1)O | C15H21N3O
reactant | triethyl orthoformate | 8.2 mmol, 1.36 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | pyridine hydrochloride | 0.2 g | Cl.N1=CC=CC=C1
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[(1H-imidazo[4,5-c]quinolin-1-yl)methyl]cyclopentanol | 1.85 g | N1(C=NC=2C=NC=3C=CC=CC3C21)CC2(CCCC2)O | C16H17N3O
